US04925939
Lithium diisopropylamide mono(tetrahydrofuran) (7.1 mL, 10.5 mmol, in 1.5M in cyclohexanol) is added dropwise to a suspension of 3-dicyanomethylene-1-(4-methoxyphenyl)pyrrolidine (2.10 g, 8.8 mmol) in 150 mL of freshly distilled (over calcium hydride) tetrahydrofuran in a dry ice-acetone bath. After stirring for 1 hour, dimethylaminomethylene chloride (prepared from 1.64 mL of phosphorus oxychloride and 1.36 mL of N,N-dimethylformamide in 10 mL of tetrahydrofuran) is added dropwise, and the stirring is continued at -65° C. for 18 hours. The solid is collected by filtration and triturated with 50 mL of boiling ethanol to give 3-dicyanomethylene-4-(N,N-dimethylamino)methylene-1(4-methoxyphenyl)pyrrolidine (1.02 g, 40%), mp 218°-219° C. (decomposition), IR (KBr) 2210 cm-1 (CN), 1H NMR (Me2SO-d6) d 3.31 (6H, s, NMe2), 3.68 (3H, s, OMe), 4.23 (2H, brs, CH2), 4.44 (2H, brs, CH2), 6.60 and 6.85 (each 2H, d, Ph), 8.24 (1H, s, NCH=).

reactant | Lithium diisopropylamide mono(tetrahydrofuran) | 10.5 mmol, 1.5M, 7.1 mL | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-dicyanomethylene-1-(4-methoxyphenyl)pyrrolidine | 8.8 mmol, 2.10 g | C(#N)C(=C1CN(CC1)C1=CC=C(C=C1)OC)C#N | C14H13N3O
product | 3-dicyanomethylene-4-(N,N-dimethylamino)methylene-1(4-methoxyphenyl)pyrrolidine | 1.02 g, 40% | C(#N)C(=C1CN(CC1=CN(C)C)C1=CC=C(C=C1)OC)C#N | C17H18N4O
